US04476308
1.70 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate are boiled at reflux for 2.5 hours while stirring in 30 ml of methylene chloride and 0.53 ml of acetyl chloride. The mixture is then evaporated. The residue is distilled in a bulb-tube. There is obtained ethyl (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetate of boiling point 225°/0.01 mmHg.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 1.70 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | acetyl chloride | 0.53 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl (R/S)-2-(3-acetoxy-2-oxo-1-pyrrolidinyl)acetate | C(C)(=O)OC1C(N(CC1)CC(=O)OCC)=O | C10H15NO5
